US07504412B2
3-Methyl-6-nitro-2-tetrahydro-3-furanylimidazo[1,2-a]pyridine
Operations similar to Production Example 1-(1) were conducted using 1-tetrahydro-3-furanyl-1-propanone in place of 3-methyl-2-butanone, and successively those of Production Example 1-(2) were conducted using 2-amino-5-nitropyridine. The resulting solid was suspended in ethyl acetate, washed with saturated aqueous sodium hydrogencarbonate solution and purified by silica gel column chromatography (hexane/ethyl acetate=2/1) to provide the title compound as yellow crystals.

reactant | 1-tetrahydro-3-furanyl-1-propanone | O1CC(CC1)C(CC)=O | C7H12O2
reactant | 2-amino-5-nitropyridine | NC1=NC=C(C=C1)[N+](=O)[O-] | C5H5N3O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Methyl-6-nitro-2-tetrahydro-3-furanylimidazo[1,2-a]pyridine | CC1=C(N=C2N1C=C(C=C2)[N+](=O)[O-])C2COCC2 | C12H13N3O3
